US08455477B2
6-bromopyrazolo[1,5-a]pyridin-4-ol (10.0 mg, 0.047 mmol), 3-(bromomethyl)pyridine hydrobromide (14.2 mg, 0.056 mmol), and NaH (6.7 mg, 0.168 mmol, 60 wt %) were suspended in DMF (1 ml) and stirred for 1 h. The reaction mixture was quenched by the addition of saturated aqueous ammonium chloride. The reaction mixture was diluted in ethyl acetate, then washed with water (5 mL) and brine (5 mL). The combined aqueous layers were extracted with ethyl acetate (2×10 mL), and the combined organic layers were dried over magnesium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (methanol/ethyl acetate gradient) to afford 6-(1-methyl-1H-pyrazol-4-yl)-4-(pyridin-3-ylmethoxy)pyrazolo[1,5-a]pyridine.

reactant | 6-bromopyrazolo[1,5-a]pyridin-4-ol | 0.047 mmol, 10.0 mg | BrC=1C=C(C=2N(C1)N=CC2)O | C7H5BrN2O
reactant | 3-(bromomethyl)pyridine hydrobromide | 0.056 mmol, 14.2 mg | Br.BrCC=1C=NC=CC1
reactant | NaH | 0.168 mmol, 6.7 mg | [H-].[Na+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 6-(1-methyl-1H-pyrazol-4-yl)-4-(pyridin-3-ylmethoxy)pyrazolo[1,5-a]pyridine | CN1N=CC(=C1)C=1C=C(C=2N(C1)N=CC2)OCC=2C=NC=CC2 | C17H15N5O
